US07981896B2
1-(4-Methoxyphenyl)-5-styryl-3-trifluoromethyl-1H-pyrazole.
1,1,1-Trifluoro-6-phenylhex-5-ene-2,4-dione (2.28 mmol) and 4-methoxyphenylhydrazine hydrochloride (435 mg, 2.5 mmol) were heated in ethanol (7 mL) at 70° C. overnight. The solution was diluted with water and extracted with ethyl acetate. The ethyl acetate extracts were washed with 1 N HCl, saturated sodium bicarbonate solution, and brine, then dried over MgSO4 and concentrated. SiO2 chromatography with 5-20% ethyl acetate/hexanes gave 0.14 g of the desired product, along with many mixed fractions. Only the clean fractions were carried on. LC-MS (C19H15F3N2O calculated 344) m/z 345 (M+H); 1H NMR (300 MHz, CDCl3) δ 7.43-7.30 (m, 7H), 7.12 (d, J=16.2 Hz, 1H), 7.05-7.00 (m, 2H), 6.88 (s, 1H), 6.78 (d, J=16.2 Hz, 1H), 3.89 (s, 3H).

reactant | 1,1,1-Trifluoro-6-phenylhex-5-ene-2,4-dione | 2.28 mmol | FC(C(CC(C=CC1=CC=CC=C1)=O)=O)(F)F | C12H9F3O2
reactant | 4-methoxyphenylhydrazine hydrochloride | 2.5 mmol, 435 mg | Cl.COC1=CC=C(C=C1)NN
solvent | ethanol | 7 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-(4-Methoxyphenyl)-5-styryl-3-trifluoromethyl-1H-pyrazole | 0.14 g | COC1=CC=C(C=C1)N1N=C(C=C1C=CC1=CC=CC=C1)C(F)(F)F | C19H15F3N2O
